US04252958
A mixture of 83 g of acetonine, 167 g of acetone, 17 g of water and 4.2 g of N,N'-dimethylhydrazine dihydrochloride was reacted at 50°-55° C. for 15 hours and then stripped under reduced pressure, followed by addition of acetone to the light-red residue and hydrogen chloride gas to pH=7. The crystals precipitated were filtered, washed with acetone, and dried to give 72.2 g of triacetonamine hydrochloride.

reactant | acetonine | 83 g | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | water | 17 g | O | H2O
reactant | hydrogen chloride | Cl | ClH
catalyst | N,N'-dimethylhydrazine dihydrochloride | 4.2 g | Cl.Cl.CNNC
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 167 g | CC(=O)C | C3H6O
product | triacetonamine hydrochloride | 72.2 g | CC1(CC(=O)CC(N1)(C)C)C.Cl | InChI=1S/C9H17NO.ClH/c1-8(2)5-7(11)6-9(3,4)10-8;/h10H,5-6H2,1-4H3;1H
